US08685989B2
Production of N-(1-benzylpiperidine-4-yl)-N-methyl-2-(3-methyl-5-nitropyridine-2-ylamino)acetamide (Compound 123)
The title compound was synthesized from 2-chloro-3-methyl-5-nitropyridine and 2-amino-N-(1-benzylpiperidine-4-yl)-N-methylacetamide in the same manner as in Example 10.

reactant | 2-chloro-3-methyl-5-nitropyridine | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
reactant | 2-amino-N-(1-benzylpiperidine-4-yl)-N-methylacetamide | NCC(=O)N(C)C1CCN(CC1)CC1=CC=CC=C1 | C15H23N3O
product | N-(1-benzylpiperidine-4-yl)-N-methyl-2-(3-methyl-5-nitropyridine-2-ylamino)acetamide | C(C1=CC=CC=C1)N1CCC(CC1)N(C(CNC1=NC=C(C=C1C)[N+](=O)[O-])=O)C | C21H27N5O3
